US08703768B2
Step 1: 1-Methyl-4-nitro-1H-pyrazole-3-carboxylic acid amide
The product was obtained according to the method described in example 1, step 1 starting from 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid and two equivalents of ammonium chloride as amine source as light yellow solid (110 mg, 37%).

reactant | 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid | CN1N=C(C(=C1)[N+](=O)[O-])C(=O)O | C5H5N3O4
reactant | ammonium chloride | two equivalents | [Cl-].[NH4+]
product | 1-Methyl-4-nitro-1H-pyrazole-3-carboxylic acid amide | CN1N=C(C(=C1)[N+](=O)[O-])C(=O)N | C5H6N4O3
